US07064124B2
N-(Pyridin-3-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzamide
3-Aminopyridine (0.141 g, 1.500 mmol), triethylamine (0.152 g, 1.500 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.254 g, 1.500 mmol) were added to a methylene chloride solution (100 ml) of 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoic acid (0.2115 g, 0.500 mmol) and the resulting solution was stirred at room temperature for 10 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) and then recrystallized from ether to obtain the titled compound (0.024 g, 0.0480 mmol, 10%).

reactant | 3-Aminopyridine | 1.500 mmol, 0.141 g | NC=1C=NC=CC1 | C5H6N2
reactant | triethylamine | 1.500 mmol, 0.152 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.500 mmol, 0.254 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzoic acid | 0.500 mmol, 0.2115 g | COC=1C(C(=C(C(C1OC)=O)CC=1C=CC(=C(C(=O)O)C1)OCC=1C=NC=CC1)C)=O | C23H21NO7
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(Pyridin-3-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-(3-pyridylmethyloxy)benzamide | 0.0480 mmol, 0.024 g, 10% | N1=CC(=CC=C1)NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OCC=1C=NC=CC1)=O | C28H25N3O6
